US09353101B2
Step A: (5-Bromo-2-chloropyridin-4-yl)methanol
A 0° C. solution of 5-bromo-2-chloroisonicotinic acid (5.008 g, 21.18 mmol) in THF (30 mL) was treated with borane tetrahydrofuran complex (52.9 ml, 52.9 mmol). The solution was stirred at room temperature for 16 hours. The reaction was slowly quenched with water until gas formation stopped. Then 25 mL of 3 N NaOH was added and the resulting mixture was heated in a 100° C. oil bath for about 75 minutes. The reaction was cooled and the volatiles removed by rotary evaporation. Ethyl acetate and brine were added, after which the layers were separated. The organic was dried over Na2SO4, filtered and the filtrate concentrated and dried to give a yellow solid that was used without further purification. 1H NMR (CDCl3, 500 MHz): δ 8.41 (s, 1H), 7.58 (s, 1H), 4.74 (s, 2H), 2.23 (br, 1H).

reactant | 5-bromo-2-chloroisonicotinic acid | 21.18 mmol, 5.008 g | BrC1=CN=C(C=C1C(=O)O)Cl | C6H3BrClNO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (5-Bromo-2-chloropyridin-4-yl)methanol | BrC=1C(=CC(=NC1)Cl)CO | C6H5BrClNO
